US05631257
2-[4-(2-Hydoxyethyl)-1-piperazinyl]benzoxazole
A 300 mg portion of 2-chlorobenzoxazole was dissolved in 2 ml of DMF. Under cooling with ice, 279 mg of 1-(2 -hydroxyethyl)piperazine was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 24 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and the resulting residue was dissolved in 100 ml of ethyl acetate and washed with sodium hydrogencarbonate aqueous solution (pH 8) and then with water. The resulting organic layer was dehydrated with sodium sulfate and concentrated under a reduced pressure to obtain 140 mg of the title compound.

reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 1-(2 -hydroxyethyl)piperazine | 279 mg | OCCN1CCNCC1 | C6H14N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-[4-(2-Hydoxyethyl)-1-piperazinyl]benzoxazole | 140 mg | OCCN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C13H17N3O2
